US04258058
By the reaction of ethyl 2-[4-(2-aminoethyl)-phenoxy]-2-methylpropionate with 4-chlorobenzenesulphonyl chloride in a manner analogous to that described in Example 2, there is obtained, in a yield of 69% of theory, colorless ethyl 2-{4-[2-(4-chlorobenzenesulphonylamino)-ethyl]-phenoxy}-2-methylpropionate in the form of a viscous oil. From this there is obtained, by hydrolysis:

reactant | ethyl 2-[4-(2-aminoethyl)-phenoxy]-2-methylpropionate | NCCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C14H21NO3
reactant | 4-chlorobenzenesulphonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | ethyl 2-{4-[2-(4-chlorobenzenesulphonylamino)-ethyl]-phenoxy}-2-methylpropionate | yield of 69% | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C20H24ClNO5S
